US05597832
52d. 1-(4-propyl-2-thiophenyl)-1,2,3,4-tetrahydro-6,7-methylenedioxy-2-naphthylamine
A solution (0.78 g, 1.96 mmol) of 1-(3-bromo-4-propyl-2-thiophenyl)-1,2,3,4-tetrahydro-6,7-methylenedioxy-2-naphthylamine in ethanol was hydrogenated at 4 Atm H2 with 0.3 g of 10% Pd/C catalyst. The catalyst was removed by filtration, and the flitrate was concentrated to give 0.65 g of the title compound. NMR (CDCl3) δ:6.81 (s, 1H), 6,77 (s, 1H), 6.56 (s, 1H), 6.41 (s, 1H), 5.87 (s, 2H), 3.90 (d, J=8 Hz, 1H), 3.25-3.15 (m, 1H), 2.92-2.78 (m, 2H), 2.54 (t, J=7 Hz, 2H), 2.13-2.05 (m, 1H), 1.8-1.6 (m, 3H), 0.96 (t, J=7 Hz, 3H).

reactant | 1-(3-bromo-4-propyl-2-thiophenyl)-1,2,3,4-tetrahydro-6,7-methylenedioxy-2-naphthylamine | 1.96 mmol, 0.78 g | BrC1=C(SC=C1CCC)C1C(CCC2=CC3=C(C=C12)OCO3)N | C18H20BrNO2S
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 1-(4-propyl-2-thiophenyl)-1,2,3,4-tetrahydro-6,7-methylenedioxy-2-naphthylamine | 0.65 g | C(CC)C=1C=C(SC1)C1C(CCC2=CC3=C(C=C12)OCO3)N | C18H21NO2S
